US04051256
To a solution of cyclohexylamine (1.75 g.) in chloroform (15 ml.) was added dropwise with stirring a solution of p-chlorophenylisothiocyanate (3.0 g.) in chloroform (15 ml.) at room temperature. After stirring 3 hours, the white solid was filtered off, washed with a little CHCl3 and recrystallised from toluene to give 1-cyclohexyl-3-(p-chlorophenyl)thiourea, m.p. 179°-180°.

reactant | cyclohexylamine | 1.75 g | C1(CCCCC1)N | C6H13N
reactant | p-chlorophenylisothiocyanate | 3.0 g | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-cyclohexyl-3-(p-chlorophenyl)thiourea | C1(CCCCC1)NC(=S)NC1=CC=C(C=C1)Cl | C13H17ClN2S
